US09376422B2
Step 1: synthesis of methyl 3-(ethyl(4-methoxy-4-methylcyclohexyl)amino)-2-methylbenzoate
To a cooled solution of methyl 3-(ethyl(4-hydroxy-4-methylcyclohexyl)amino)-2-methylbenzoate (300 mg, 0.98 mmol) in THF (5 ml), was added sodium hydride (235 mg, 5.89 mmol) portion-wise followed by methyl iodide (0.61 ml, 9.8 mmol). The mixture was stirred at room temperature for 1 h, cooled to 0° C. quenched with ice cold water and extracted with ethyl acetate. The combined organic layers were dried over Na2SO4 and concentrated under reduced pressure to give 300 mg of the crude title compound.

reactant | methyl 3-(ethyl(4-hydroxy-4-methylcyclohexyl)amino)-2-methylbenzoate | 0.98 mmol, 300 mg | C(C)N(C=1C(=C(C(=O)OC)C=CC1)C)C1CCC(CC1)(C)O | C18H27NO3
reactant | sodium hydride | 5.89 mmol, 235 mg | [H-].[Na+]
reactant | methyl iodide | 9.8 mmol, 0.61 ml | CI | CH3I
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | methyl 3-(ethyl(4-methoxy-4-methylcyclohexyl)amino)-2-methylbenzoate | 300 mg | C(C)N(C=1C(=C(C(=O)OC)C=CC1)C)C1CCC(CC1)(C)OC | C19H29NO3
